US04794110
1-[(2-Fluorophenyl)phenylmethyl]pyrrol-2-yl chloromethyl ketone
A cooled mixture of chloroacetonitrile (11.3 g) and ZnCl2 (10.2 g) in 10 ml of diethyl ether was saturated with gaseous hydrochloric acid. A solution of 1-[(2-fluorophenyl)phenylmethyl]pyrrole (18.8 g) in 200 ml of ethyl ether was added and this was stirred for 6 hours. The resulting solid was collected, added to water and heated at 95° C. for 2 hours. This was then cooled and extracted with ethyl ether and the organics were dried (saturated NaCl, MgSO4) and concentrated to give 20.4 g of a yellow oil, a portion of which was crystallized to give a white solid, mp 86°-91° C.

reactant | chloroacetonitrile | 11.3 g | ClCC#N | C2H2ClN
reactant | hydrochloric acid | Cl | ClH
reactant | 1-[(2-fluorophenyl)phenylmethyl]pyrrole | 18.8 g | FC1=C(C=CC=C1)C(N1C=CC=C1)C1=CC=CC=C1 | C17H14FN
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
reactant | ethyl ether | 200 ml | C(C)OCC | C4H10O
catalyst | ZnCl2 | 10.2 g | [Cl-].[Cl-].[Zn+2]
product | 1-[(2-Fluorophenyl)phenylmethyl]pyrrol-2-yl chloromethyl ketone | 20.4 g | ClCC(=O)C=1N(C=CC1)C(C1=CC=CC=C1)C1=C(C=CC=C1)F | C19H15ClFNO
